US06586617B1
4′-Thiocyano-p-toluenesulfonanilide (19.2 g (63.2 mmol)) was dissolved in acetic acid (60 ml). To this, fuming nitric acid (3.04 ml (75.9 mmol)) was added dropwise with stirring at room temperature. Then, the mixture was stirred at 50° C. for 4 hours, poured into water, and the crystals separated were filtered and washed with water. The resulting crystals were dissolved in ethyl acetate, and the solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give 21.8 g (99%) of 2′-nitro-4′-thiocyano-p-toluenesulfonanilide as pale yellow crystals.

reactant | 4′-Thiocyano-p-toluenesulfonanilide | 63.2 mmol, 19.2 g | S(C#N)C1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C14H12N2O2S2
reactant | nitric acid | 75.9 mmol, 3.04 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2′-nitro-4′-thiocyano-p-toluenesulfonanilide | 21.8 g, 99% | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)SC#N | C14H11N3O4S2
